US04826866
5-Methyl-3-phenylamino-1H-pyrazole-4-carboxylic acid, ethyl ester
A suspension of 16.7 g (0.1 mole) of 4-phenyl-3-thiosemicarbazide in 60 mL of absolute ethanol was treated with 16.5 g (0.1 mole) of ethyl 2-chloroacetoacetate and the mixture stirred for 1 hr at room temperature. As the thiosemicarbazide began to dissolve the reaction mixture became exothermic and a reddish-brown solid precipitated. Alcoholic hydrogen chloride (2N, 50 mL) was added, and the reaction mixture heated at reflux for 1.0 hr. The solution was filtered while hot and the filtrate was evaporated under reduced pressure. The solid residue was triturated in cold absolute ethanol and a red solid collected by filtration. The solid was warmed in 2N hydrochloric acid (100 mL) and the suspended sulfur removed by filtration. An orange-red solid precipitated from the filtrate, was collected by filtration and air dried for ~16 hr (14.6 g, mp 160°-40° C.). Recrystallization from benzene left 10.5 g of product, mp 165°-6° C. The material was air dried and submitted for elemental analysis.

reactant | 4-phenyl-3-thiosemicarbazide | 0.1 mole, 16.7 g | C1(=CC=CC=C1)NC(NN)=S | C7H9N3S
reactant | ethyl 2-chloroacetoacetate | 0.1 mole, 16.5 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 5-Methyl-3-phenylamino-1H-pyrazole-4-carboxylic acid, ethyl ester | CC1=C(C(=NN1)NC1=CC=CC=C1)C(=O)OCC | C13H15N3O2
